US06022967
A mixture of N-(5-pyrimidinylmethyl)ethylenediamine (15.2 g), 1-nitro-2,2-bis(methylthio)ethylene (14.9 g) and ethanol (100 g) was refluxed with stirring until the generation of methylmercaptan ceased (for about 3 hours). The reaction mixture was cooled to room temperature, and the resultant crystals were collected by filtration. The crystals were washed with ethanol, and dried to give 1-(5-pyridylmethyl)-2-(nitromethylene)imidazolidine (12.7 g) as pale yellow crystals. This product decomposes at 236° C.

reactant | N-(5-pyrimidinylmethyl)ethylenediamine | 15.2 g | N1=CN=CC(=C1)CNCCN | C7H12N4
reactant | 1-nitro-2,2-bis(methylthio)ethylene | 14.9 g | [N+](=O)([O-])C=C(SC)SC | C4H7NO2S2
reactant | methylmercaptan | CS | CH4S
solvent | ethanol | 100 g | C(C)O | C2H6O
product | 1-(5-pyridylmethyl)-2-(nitromethylene)imidazolidine | 12.7 g | N1=CC=CC(=C1)CN1C(NCC1)=C[N+](=O)[O-] | C10H12N4O2
